US04351939
3-(2-Pyrimidinyl)-3-aza-6-azoniaspiro[5.5]undecane Chloride
Reaction of 1-(2-pyrimidinyl)piperazine (16.4 g., 0.1 mole), 1,5-dichloropentane (28.2 g., 0.2 mole) and sodium carbonate (21.2 g., 0.2 mole) in 300 ml. of isopropanol according to the procedure of Example 2 affords the title compound.

reactant | 1-(2-pyrimidinyl)piperazine | 0.1 mole, 16.4 g | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
reactant | 1,5-dichloropentane | 0.2 mole, 28.2 g | ClCCCCCCl | C5H10Cl2
reactant | sodium carbonate | 0.2 mole, 21.2 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | isopropanol | C(C)(C)O | C3H8O
product | 3-(2-Pyrimidinyl)-3-aza-6-azoniaspiro[5.5]undecane Chloride | [Cl-].N1=C(N=CC=C1)N1CC[N+]2(CC1)CCCCC2 | InChI=1S/C13H21N4.ClH/c1-2-9-17(10-3-1)11-7-16(8-12-17)13-14-5-4-6-15-13;/h4-6H,1-3,7-12H2;1H/q+1;/p-1
